US08614201B2
Intermediate 53: [2-(4-Trifluoromethyl-phenyl)-pyrimidin-4-yl]-methanol
To a solution of 2-(4-trifluoromethyl-phenyl)-pyrimidine-4-carboxylic acid (435 mg, 1.60 mmol), Et3N (0.34 mL, 2.40 mmol) and THF (10 mL) was added isobutyl chloroformate (333 mg, 2.40 mmol). After 1 h, the resulting mixture was filtered through a fritted funnel and washed with THF (30 mL). The filtrate was concentrated to approximately 10 mL and MeOH (1 mL) was added followed by sodium borohydride (121 mg, 3.20 mmol). After 12 h, the mixture was partitioned between saturated aqueous NaHCO3 (30 mL) and ethyl acetate (30 mL). The aqueous layer was extracted with ethyl acetate (2×30 mL). The combined organic layers were dried (MgSO4), filtered, and concentrated. The residue was purified directly by FCC to afford a white solid (120 mg, 27%). MS (ESI): mass calcd. for C12H9F3N2O; 254.0 m/z found, 255.1 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.80 (d, J=5.1, 1H), 8.57 (d, J=8.1, 2H), 7.75 (d, J=8.2, 2H), 7.30 (d, J=5.1, 1H), 4.85 (s, 2H).

reactant | 2-(4-trifluoromethyl-phenyl)-pyrimidine-4-carboxylic acid | 1.60 mmol, 435 mg | FC(C1=CC=C(C=C1)C1=NC=CC(=N1)C(=O)O)(F)F | C12H7F3N2O2
reactant | Et3N | 2.40 mmol, 0.34 mL | CCN(CC)CC | C6H15N
reactant | isobutyl chloroformate | 2.40 mmol, 333 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 3.20 mmol, 121 mg | [BH4-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [2-(4-Trifluoromethyl-phenyl)-pyrimidin-4-yl]-methanol | 120 mg, 27% | FC(C1=CC=C(C=C1)C1=NC=CC(=N1)CO)(F)F | C12H9F3N2O
